US06211215B1
A mixture of 1-[4-(4-benzyloxyphenyl)butyl]imidazole (13.0 g), palladium-carbon (5%, 10.0 g) and ethanol (100 ml) was subjected to catalitic hydrogenation at room temperature under 1 atom. The catalyst was filtered off, and the filtrate was concentrated to give 1-[4-(4-hydroxyphenyl)butyl]imidazole (8.58 g, 94%). Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 124-125° C.

reactant | 1-[4-(4-benzyloxyphenyl)butyl]imidazole | 13.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C20H22N2O
catalyst | palladium-carbon | 10.0 g | [C].[Pd]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[4-(4-hydroxyphenyl)butyl]imidazole | 8.58 g, 94% | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
